data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4512,5147,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH:16]=[O+:17][C-:18]([CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([CH3:19])([C:20](=[O:21])[NH:22][CH3:23])[O:17][CH:16]2[CH3:15],water,298.15,2.538911268025944,-50.205496691602384
2647,2934,[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[c-:31]1[c:32](=[O:33])[o:34][n:35][n+:36]1[CH3:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[N:35]1[O:34][C:32](=[O:33])[C:31]2([C:29]([O:28][CH3:27])=[O:30])[N:36]1[CH3:37],water,298.15,26.85247123216071,3.0719087609440145
4623,5270,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14](=[O:15])[NH:16][CH3:17])=[N+:18]([CH3:19])[C-:20]([CH3:21])[C:22]([CH3:23])=[O:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:20]([CH3:21])([C:22]([CH3:23])=[O:24])[N:18]([CH3:19])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14](=[O:15])[NH:16][CH3:17],water,298.15,28.760240382389856,-22.59150901573869
1763,1954,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([Br:7])[Br:8].[CH3:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[CH-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([Br:7])([Br:8])[CH:12]([C:10]([CH3:9])=[O:11])[N:13]([CH3:14])[CH:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,29.178229542551644,-17.517354935470305
4023,4608,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]1([C:12]([CH3:11])=[O:13])[O:15][C:16](=[O:17])[C:18]2([CH3:19])[N:20]1[CH3:21],water,298.15,35.18717529621296,16.184000760383118
1069,1166,[CH3:16][c-:17]1[c:18](=[O:19])[o:20][c:21]([C:22]#[N:23])[n+:24]1[CH3:25].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:17]1([CH3:16])[C:18](=[O:19])[O:20][C:21]2([C:22]#[N:23])[N:24]1[CH3:25],water,298.15,30.78042349897984,4.166228552008112
4580,5225,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,28.592639802400733,-22.057926683327093
471,516,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[O-:21].[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[O:21][N:19]([CH3:20])[C:16]1([C:14]([NH:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,35.044671865937445,-1.0490063222826325
3837,4391,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([CH3:19])[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:18]([CH3:19])([CH3:20])[NH:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,29.45082928808113,-1.811078045786556
1784,1975,[CH3:13][NH:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[NH+:20][C-:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][NH:2][C:3](=[O:4])/[C:5]([CH3:6])=[C:7](/[CH3:8])[C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C@:5]1([CH3:6])[C@:7]([CH3:8])([C:9](=[O:10])[NH:11][CH3:12])[C:21]([C:22]#[N:23])([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[NH:20][C:17]1([C:15]([NH:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,28.81565930839809,-5.67727667596412
4546,5186,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:13]([C:11]([CH3:10])=[O:12])[O:14][C:15]1([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,15.431237490095905,-38.026096255380814
